US07576215B2
4-PHENYL-3-(1-PHENYLCYCLOPROPYL)-8-(TRIFLUOROMETHYL)QUINOLINE
Pyridinium chlorochromate (0.417 g, 1.94 mmol) in CH2Cl2 (3 mL) is treated with a mixture of 2-(1-phenylcyclopropyl)ethanol (0.157 g, 0.967 mmol) in CH2Cl2 (2 mL) for 2 h. The reaction is filtered through Celite, treated with AcOH (3 mL) and [2-amino-3-(trifluoromethyl)phenyl](phenyl)methanone (0.128 g, 0.484 mmol), and the methylene chloride is removed in vacuo. Then 1:20H2SO4:AcOH (0.1 mL) is added and the reaction is heated at 120° C. for 3.5 h. The cooled reaction is poured into saturated aq sodium bicarbonate and extracted with ethyl acetate. The extract is washed with saturated aq sodium bicarbonate and dried (MgSO4). The residue is chromatographed eluting with 5:95 ethyl acetate:hexane and then prep HPLC with a gradient of 10-100% acetonitrile/water to afford the title compound (0.032 g). HRMS: calcd for C25H18F3N+H, 390.14696; found (ESI, [M+H]+), 390.1468.

reactant | Pyridinium chlorochromate | 1.94 mmol, 0.417 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | 2-(1-phenylcyclopropyl)ethanol | 0.967 mmol, 0.157 g | C1(=CC=CC=C1)C1(CC1)CCO | C11H14O
reactant | [2-amino-3-(trifluoromethyl)phenyl](phenyl)methanone | 0.484 mmol, 0.128 g | NC1=C(C=CC=C1C(F)(F)F)C(=O)C1=CC=CC=C1 | C14H10F3NO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
solvent | AcOH | 3 mL | CC(=O)O | C2H4O2
product | 4-PHENYL-3-(1-PHENYLCYCLOPROPYL)-8-(TRIFLUOROMETHYL)QUINOLINE | 0.032 g | C1(=CC=CC=C1)C1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C1(CC1)C1=CC=CC=C1 | C25H18F3N
